US04044148
e. N,N'-(4-Chloro-5-phenyl-m-phenylene)dioxamic acid
To a solution of 5.0 g (0.014 mole) of diethyl N,N'-(4-Chloro-5-phenyl-m-phenylene)dioxamate in 125 ml. of chloroform in a separatory funnel is added 29 ml. of 1 M sodium hydroxide solution. Water is added to the mixture until the solid that forms on shaking redissolves. The mixture is allowed to stand with occasional shaking for fifteen minutes. The aqueous layer is drawn off, filtered and the filtrate acidified by the addition of 1N hydrochloric acid. The precipitate that forms is removed by filtration. There is obtained 3.89 g. of material melting above 310°.

reactant | diethyl N,N'-(4-Chloro-5-phenyl-m-phenylene)dioxamate | 0.014 mole, 5.0 g | ClC1=C(C=C(C=C1C1=CC=CC=C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C20H19ClN2O6
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | Water | O | H2O
product | N,N'-(4-Chloro-5-phenyl-m-phenylene)dioxamic acid | ClC1=C(C=C(C=C1C1=CC=CC=C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C16H11ClN2O6
